US07951810B2
Step i: 2-((2R,3S,4R,5R)-5-{6-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]-9H-purin-9-yl}-3,4-dihydroxytetrahydrofuran-2-yl)ethanesulfonamide (I-31)
Trifluoroacetic acid (3.60 mL, 0.0467 mol) was added to water (0.40 mL, 0.022 mol) and the mixture was added to 2-[(3aR,4R,6R,6aR)-6-(6-(indan-1-ylamino)-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-ethanesulfonamide (crude, 0.000111 mol). The reaction was left to stand (with occasional shaking) for 25 minutes. The reaction was concentrated in vacuo to dryness and the residue purified by preparative HPLC to yield the title compound 23 mg.

reactant | Trifluoroacetic acid | 0.0467 mol, 3.60 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 0.022 mol, 0.40 mL | O | H2O
reactant | 2-[(3aR,4R,6R,6aR)-6-(6-(indan-1-ylamino)-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-ethanesulfonamide | 0.000111 mol | C1(CCC2=CC=CC=C12)NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)CCS(=O)(=O)N | C23H28N6O5S
product | 2-((2R,3S,4R,5R)-5-{6-[(1S)-2,3-Dihydro-1H-inden-1-ylamino]-9H-purin-9-yl}-3,4-dihydroxytetrahydrofuran-2-yl)ethanesulfonamide | 23 mg | [C@@H]1(CCC2=CC=CC=C12)NC1=C2N=CN(C2=NC=N1)[C@H]1[C@@H]([C@@H]([C@H](O1)CCS(=O)(=O)N)O)O | C20H24N6O5S
